US04028396
4(R)-Tetrahydropyranyloxy-2-(6-carbomethoxyhexyl)-cyclopent-2-en-1-one
A vigorously stirred, ice-cold solution of 10 g. of 2-(6-carbomethoxyhexyl)-4(R)-hydroxy-cyclopent-2-en-1-one [R. Pappo, et al., Tetrahedron Letters, 943(1973)] and 15 g. of dihydropyran in 215 ml. of methylene chloride is treated with 85 mg. of p-toluenesulfonic acid monohydrate. After stirring for 5 minutes at 0° C. and 60 minutes at 25° C., the solution is poured into a stirred mixture of 40 ml. of saturated sodium chloride solution, 40 ml. of saturated sodium bicarbonate solution and 80 ml. of water. The organic phase is washed with brine, dried over magnesium sulfate, and concentrated to give an oil, λmax (film) 1730 (ester carbonyl), 1710 (ketone carbonyl), and 1030 cm-1 (tetrahydropyranyloxy group).

reactant | 2-(6-carbomethoxyhexyl)-4(R)-hydroxy-cyclopent-2-en-1-one | C(=O)(OC)CCCCCCC=1C(C[C@H](C1)O)=O | C13H20O4
reactant | dihydropyran | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4(R)-Tetrahydropyranyloxy-2-(6-carbomethoxyhexyl)-cyclopent-2-en-1-one | O1C(CCCC1)O[C@H]1C=C(C(C1)=O)CCCCCCC(=O)OC | C18H28O5
